US07473694B2
Synthesis of tert-butyl {6-[3-(tert-butyldimethylsilanyloxy)propyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)carbamate
To a 1,4-dioxane (13 mL) solution containing {6-[3-(tert-butyldimethylsilanyloxy)propyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)amine (1.89 g, 4.12 mmol), were added triethylamine (861 μL, 6.18 mmol), di-tert-butyl dicarbonate (1.08 g, 4.84 mmol) and N,N-dimethylaminopyridine (50.3 mg, 0.412 mmol), and this mixture was stirred at room temperature for 2 hr. After the reaction, aqueous ammonium chloride was added to the reaction solution, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was washed with aqueous sodium hydrogen carbonate and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off and the residue was purified with column chromatography (10% ethyl acetate-hexane) to obtain the title compound (2.03 g).

reactant | {6-[3-(tert-butyldimethylsilanyloxy)propyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)amine | 4.12 mmol, 1.89 g | [Si](C)(C)(C(C)(C)C)OCCCC=1C(=NC=2N(C1NC1=CC=C(C=C1)OCC)N=CC2)Cl | C23H33ClN4O2Si
reactant | triethylamine | 6.18 mmol, 861 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.84 mmol, 1.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | tert-butyl {6-[3-(tert-butyldimethylsilanyloxy)propyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)carbamate | 2.03 g | [Si](C)(C)(C(C)(C)C)OCCCC=1C(=NC=2N(C1N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2)Cl | C28H41ClN4O4Si
